US07456288B2
5-[1-(3-Chloro-4-{2-[2-(3,4-difluoro-phenyl)-1-methyl-4-oxo-1,4-dihydro-quinolin-3-yloxy]-ethoxy}-phenyl)-ethylidene]-thiazolidine-2,4-dione
A mixture of compound 3-[2-(4-Acetyl-2-chloro-phenoxy)-ethoxy]-2-(3,4-difluoro-phenyl)-1-methyl-1H-quinolin-4-one (97 g, 200 mmol), thiazolidine-2,4-dione (141 g, 1200 mmol), benzoic acid (44 g, 361 mmol) and piperidine (35 g, 411.7 mmol) were taken a single neck round bottomed flask, to this toluene (1000 mL) was added. The round-bottomed flask 20 was fitted with dean stark apparatus, which was connected to a reflux condenser. The reaction mixture was heated to reflux for 48 hours under a nitrogen atmosphere. The reaction mixture was cooled to 25° C. and was allowed to pass through a silica gel column. The product was eluted by using 0.3-0.9% MeOH/CHCl3 to afford the title compound, 37 g (32%) as off white solid.

reactant | 3-[2-(4-Acetyl-2-chloro-phenoxy)-ethoxy]-2-(3,4-difluoro-phenyl)-1-methyl-1H-quinolin-4-one | 200 mmol, 97 g | C(C)(=O)C1=CC(=C(OCCOC2=C(N(C3=CC=CC=C3C2=O)C)C2=CC(=C(C=C2)F)F)C=C1)Cl | C26H20ClF2NO4
reactant | thiazolidine-2,4-dione | 1200 mmol, 141 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | benzoic acid | 361 mmol, 44 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | piperidine | 411.7 mmol, 35 g | N1CCCCC1 | C5H11N
solvent | toluene | 1000 mL | C1(=CC=CC=C1)C | C7H8
product | 5-[1-(3-Chloro-4-{2-[2-(3,4-difluoro-phenyl)-1-methyl-4-oxo-1,4-dihydro-quinolin-3-yloxy]-ethoxy}-phenyl)-ethylidene]-thiazolidine-2,4-dione | ClC=1C=C(C=CC1OCCOC1=C(N(C2=CC=CC=C2C1=O)C)C1=CC(=C(C=C1)F)F)C(C)=C1C(NC(S1)=O)=O | C29H21ClF2N2O5S
